US07217724B2
A mixture of (R)-3-(2-aminopropyl)-1H-indole-7-carboxylic acid diethylamide (1.30 g, 4.76 mmol) and (R)-(+)-3-chlorostyrene oxide (1.21 mL, 9.52 mmol) in acetonitrile (15 mL) is refluxed for 10 hours. After cooling, the mixture is concentrated and the residue is purified by silica gel column chromatography (a saturated ammonia solution in chloroform) to give the desired 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethylamino]propyl}-1H-indole-7-carboxylic acid diethylamide (0.79 g, yield: 39%).

reactant | (R)-3-(2-aminopropyl)-1H-indole-7-carboxylic acid diethylamide | 4.76 mmol, 1.30 g | C(C)N(C(=O)C=1C=CC=C2C(=CNC12)C[C@@H](C)N)CC | C16H23N3O
reactant | (R)-(+)-3-chlorostyrene oxide | 9.52 mmol, 1.21 mL | ClC=1C=C([C@@H]2CO2)C=CC1 | C8H7ClO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-{(2R)-2-[2-(3-chlorophenyl)-(2R)-2-hydroxyethylamino]propyl}-1H-indole-7-carboxylic acid diethylamide | 0.79 g, yield: 39% | C(C)N(C(=O)C=1C=CC=C2C(=CNC12)C[C@@H](C)NC[C@H](O)C1=CC(=CC=C1)Cl)CC | C24H30ClN3O2
